US04151354
(A) 2-[3-(1-Piperidinyl)propoxy]benzaldehyde
Salicylaldehyde (27 g) is treated first with 11 g of 50% sodium hydride in 175 ml of dimethylformamide and then with 150 ml of a 2 N toluene solution of N-(3-chloropropyl)-piperidine following the procedure described in Example 31A, yielding 47.7 g of the title compound as an oil, boiling point 155°-160° C. at 0.2-0.3 mm of Hg.

reactant | Salicylaldehyde | 27 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium hydride | 11 g | [H-].[Na+]
reactant | toluene | 2 N | C1(=CC=CC=C1)C | C7H8
reactant | N-(3-chloropropyl)-piperidine | ClCCCN1CCCCC1 | C8H16ClN
solvent | dimethylformamide | 175 ml | CN(C=O)C | C3H7NO
product | 2-[3-(1-Piperidinyl)propoxy]benzaldehyde | 47.7 g | N1(CCCCC1)CCCOC1=C(C=O)C=CC=C1 | C15H21NO2
